US04337341
Following the procedure set forth in Example 40, 4a-(3-methoxyphenyl)-2-n-pentyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine was reacted with aqueous hydrobromic acid in glacial acetic acid to afford 4a-(3-hydroxyphenyl)-2-n-pentyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine, which was then converted to the corresponding hydrogen bromide salt. M.P. 171°-173° C.

reactant | 4a-(3-methoxyphenyl)-2-n-pentyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)C12CCN(CC2CCC1)CCCCC | C20H31NO
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4a-(3-hydroxyphenyl)-2-n-pentyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | OC=1C=C(C=CC1)C12CCN(CC2CCC1)CCCCC | C19H29NO
